US04568700
75 g (2.5 mole) of paraformaldehyde were stirred in 250 ml 1,1,2-trichloroethane with 268 ml (2.5 mole) 1-octanol at 0°-5° C. HCl gas was passed for one hour. The product chloromethyloctyl ether can be isolated by evaporation of the excess solvent. Alternatively, a stock solution of 3M concentration is made in 1,1,2-trichloroethane and used as such, or kept refrigerated. Chloromethyloctylether may be distilled, b.p. 63°-64° C. (0.7 torr).

reactant | paraformaldehyde | 2.5 mole, 75 g | C=O | CH2O
reactant | 1-octanol | 2.5 mole, 268 ml | C(CCCCCCC)O | C8H18O
reactant | HCl | Cl | ClH
solvent | 1,1,2-trichloroethane | 250 ml | ClC(CCl)Cl | C2H3Cl3
product | chloromethyloctyl ether | ClCOCCCCCCCC | C9H19ClO
